US07619107B2
Preparation of [2-(4,5-Dihydro-3H-pyrrol-2-yl)-1-methyl-vinyl]-ethyl-amine
To a solution of diisopropylamine (22.2 g, 219.3 mmol) in THF (200 mL) was dropwise added n-BuLi (2.89 M, 75.9 mL, 219.3 mmol) at −78° C. under nitrogen. Once all the n-BuLi was added, the temperature was adjusted to −5° C., and the reaction mixture was stirred for 30 min. Then a solution of 2-methyl-1-pyrroline (11.3 g, 135.7 mmol) in THF (15 mL) was added dropwise to the reaction mixture at −5° C., and then stirred. After 30 min, ethylacetate (9.20 g, 104.4 mmol) was added dropwise over 30 min. The reaction mixture was stirred as the temperature was allowed to gradually rise to room temperature, and was continuously stirred at room temperature overnight. THF solvent was removed under reduced pressure, then 80 mL of methanol was added dropwise to the residue. After removing all of the volatile solvent, diethyl ether (100 mL) was added to the residue, and the mixture was filtered. Concentration of the filtrate under reduced pressure, followed by column chromatography, provided the desired product.

reactant | diisopropylamine | 219.3 mmol, 22.2 g | C(C)(C)NC(C)C | C6H15N
reactant | n-BuLi | 219.3 mmol, 2.89 M, 75.9 mL | [Li]CCCC
reactant | 2-methyl-1-pyrroline | 135.7 mmol, 11.3 g | CC1=NCCC1 | C5H9N
reactant | ethylacetate | 104.4 mmol, 9.20 g | C(C)OC(C)=O | C4H8O2
solvent | THF | 200 mL | C1CCOC1 | C4H8O
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | [2-(4,5-Dihydro-3H-pyrrol-2-yl)-1-methyl-vinyl]-ethyl-amine | N1=C(CCC1)C=C(C)NCC | C9H16N2
